US09301951B2
2-(2-(3-((4-Methyl-1,4-diazepan-1-yl)methyl)benzamido)-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide
Into a 50-mL round-bottom flask, was placed a solution of N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(bromomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide (100 mg, 0.15 mmol, 1.00 equiv) in N,N-dimethylformamide (2 mL), 1-methyl-1,4-diazepane (65.4 mg, 0.57 mmol, 3.74 equiv), KI (12.7 mg, 0.08 mmol, 0.50 equiv), and potassium carbonate (42.4 mg, 0.31 mmol, 2.00 equiv). The resulting solution was stirred for 3 h at 70° C. in an oil bath. The reaction progress was monitored by LCMS. The resulting solution was diluted with 20 mL of water. The resulting solution was extracted with 3×20 mL of ethyl acetate and the organic layers combined. The resulting mixture was washed with 3×20 mL of brine, dried over anhydrous sodium sulfate, and concentrated under vacuum. The crude product was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 40 mg (23%) of a yellow solid. 1H-NMR (400 MHz, CD3OD, ppm): δ 8.95-8.93 (d, J=4.2 Hz, 1H), 8.75-8.73 (d, J=6.6 Hz, 1H), 8.46 (s, 1H), 8.18-8.17 (d, J=4.2 Hz, 1H), 8.09 (s, 1H), 8.02-8.00 (d, J=8 Hz, 1H), 7.90-7.88 (m, 1H), 7.75-7.55 (m, 1H), 4.72 (s, 2H), 4.19 (s, 2H), 3.70-3.67 (t, J=5.6 Hz, 4H), 3.55-3.49 (m, 4H), 3.18-3.16 (t, J=5.6 Hz, 2H), 2.95 (s, 3H), 2.22-2.18 (m, 2H), 2.07-2.05 (t, J=5.2 Hz, 4H), 1.84-1.83 (d, J=5.2 Hz, 1H). MS (ES, m/z): 685 [M+H]+.

reactant | N-(3-(trifluoromethyl)benzyl)-2-(2-(3-(bromomethyl)benzamido)-5-(piperidin-1-yl)phenyl)isonicotinamide | 0.15 mmol, 100 mg, 1.00 equiv | FC(C=1C=C(CNC(C2=CC(=NC=C2)C2=C(C=CC(=C2)N2CCCCC2)NC(C2=CC(=CC=C2)CBr)=O)=O)C=CC1)(F)F | C33H30BrF3N4O2
reactant | 1-methyl-1,4-diazepane | 0.57 mmol, 65.4 mg, 3.74 equiv | CN1CCNCCC1 | C6H14N2
reactant | potassium carbonate | 0.31 mmol, 42.4 mg, 2.00 equiv | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | 2-(2-(3-((4-Methyl-1,4-diazepan-1-yl)methyl)benzamido)-5-(piperidin-1-yl)phenyl)-N-(3-(trifluoromethyl)benzyl)isonicotinamide | 40 mg, 23% | CN1CCN(CCC1)CC=1C=C(C(=O)NC2=C(C=C(C=C2)N2CCCCC2)C=2C=C(C(=O)NCC3=CC(=CC=C3)C(F)(F)F)C=CN2)C=CC1 | C39H43F3N6O2
